US04738972
1-Benzyl-3,4-dihydro-2(1H)-quinolone-3-spirocyclopentane
To diethylamine (0.96 ml, 0.0092 mol) in 4 ml tetrahydrofuran at 0° C. was added butyllithium (5.8 ml of 1.6 M in hexane, 0.0092 mol) and the mixture stirred for 10 minutes at 0° C., then warmed to room temperature, thus forming a solution of lithium diethylimide. The solution was cooled to -22° C., hexamethylphosphoramide (4 ml) and then, over a 5 minutes period, 1-benzyl-3,4-dihydro-2(1H)-quinolone (1.0 g, 0.0042 mol) in 6 ml tetrahydrofuran were added, and the resulting mixture warmed to 15° C. over 1 hour, then recooled to -55° C., at which point a solution of 1-chloro-4-iodobutane (0.95 g, 1.03 molar equivalents) in 10 ml tetrahydrofuran was added over 5 minutes. After stirring 16 hours at -55° C., water (5 ml) was added and the mixture warmed to room temperature, poured into 30 ml H2O and extracted 3×15 ml ether. The organic layers wre combined, washed 4×20 ml H2O, dried (MgSO4) and stripped to dryness (1.32 g) and radially chromatographed on a thick layer plate of silica gel with CHCl3 as eluant to produce present title product, 0.48 g; mass spectra includes molecular ion at 291.

reactant | hexamethylphosphoramide | 4 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 1-benzyl-3,4-dihydro-2(1H)-quinolone | 0.0042 mol, 1.0 g | C(C1=CC=CC=C1)N1C(CCC2=CC=CC=C12)=O | C16H15NO
reactant | 1-chloro-4-iodobutane | 1.03 molar, 0.95 g | ClCCCCI | C4H8ClI
reactant | water | 5 ml | O | H2O
reactant | H2O | 30 ml | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3,4-dihydro-2(1H)-quinolone-3-spirocyclopentane | C(C1=CC=CC=C1)N1C(=O)C2(CCCC2)CC2=CC=CC=C12 | C20H21NO
